US05753657
To a stirred mixture of 0.48 g of 10-methyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one, 25 ml of dimethylformamide and 0.33 g of 80% sodium hydride is added 0.3 ml of trimethylchlorosilane at a temperature in the region of 20° C. and under cover of argon. The stirring is continued for one hour, followed by the addition of 0.07 g of 80% sodium hydride and the stirring is continued for 30 minutes. 0.36 g of 4-chloromethylpyridine hydrochloride is then added and the stirring is continued for 20 minutes. 2 ml of acetic acid are added to the reaction mixture, which is poured into 150 ml of ice-water and concentrated on a rotary evaporator. The evaporation residue is treated with 200 ml of ethyl acetate and filtered, and the filtrate is evaporated. The yellow-orange paste obtained is purified by chromatography on a column of silica (30 g), eluting with a mixture of dichloromethane and methanol (95/5 by volume). After trituration in 40 ml of ethyl ether, filtration and drying at 60° C. under vacuum (1 mmHg; 0.13 kPa), 0.18 g of 10-methyl-10-(4-pyridylmethyl)-5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one is obtained, in the form of a cream-coloured solid melting above 260° C. (Analysis % calculated C: 73.15, H: 4.91, N: 17.06, O: 4.87, % found C: 73.2, H: 5.1, N: 17.0).

reactant | 10-methyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 0.48 g | CC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C14H11N3O
reactant | sodium hydride | 0.33 g | [H-].[Na+]
reactant | trimethylchlorosilane | 0.3 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | sodium hydride | 0.07 g | [H-].[Na+]
reactant | 4-chloromethylpyridine hydrochloride | 0.36 g | Cl.ClCC1=CC=NC=C1
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 10-methyl-10-(4-pyridylmethyl)-5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one | 0.18 g | CC1(C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)CC3=CC=NC=C3 | C20H16N4O
